US08871767B2
5-(6-ethoxyimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)benzonitrile
A mixture of 2-[3-bromo-4-(trifluoromethyl)phenyl]-6-ethoxy-imidazo[2,1-f]pyridazine (0.050 g, 0.129 mmol) and CuCN (0.058 g) in 4-methylmorpholine (2.0 mL) is heated in the microwave at 220° C. for 10 min. The mixture is diluted with MeOH (10 mL) and the solids are removed by filtration. The crude solution is concentrated to remove the MeOH. Water (50 mL) is added and the solid precipitate is collected. The crude product is purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (0.03 g, 71% yield). LCMS m/z=333.3 [M+H]+.

reactant | 2-[3-bromo-4-(trifluoromethyl)phenyl]-6-ethoxy-imidazo[2,1-f]pyridazine | 0.129 mmol, 0.050 g | BrC=1C=C(C=CC1C(F)(F)F)C=1N=C2C=CC(=NN2C1)OCC | C15H11BrF3N3O
reactant | CuCN | 0.058 g | C(#N)[Cu]
solvent | 4-methylmorpholine | 2.0 mL | CN1CCOCC1 | C5H11NO
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(6-ethoxyimidazo[2,1-f]pyridazin-2-yl)-2-(trifluoromethyl)benzonitrile | 0.03 g, 71% yield | C(C)OC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C#N)C2)C(F)(F)F | C16H11F3N4O
